US05202487
Preparation of 4-amino-2-[(methylthio)methyl]phenol
0.085 moles (17 g) of 4-nitro-2-[(methylthio)methyl]phenol are added to a solution of 16 g of sodium hydroxide (NaOH) pellets in 135 ml of water, followed portionwise, so as to maintain the temperature between 70° C. and 75° C., by 55 g of sodium hydrosulphite. After the end of addition stirring is continued for 30 minutes at 75° C. After cooling, the expected product is obtained by neutralizing the reaction mixture with acetic acid. After filtering off, followed by washing with water and drying, it is recrystallized from 96° ethanol. It melts at 166° C. Analysis of the product obtained gives the following results:

reactant | 4-nitro-2-[(methylthio)methyl]phenol | 0.085 moles, 17 g | [N+](=O)([O-])C1=CC(=C(C=C1)O)CSC | C8H9NO3S
reactant | sodium hydroxide | 16 g | [OH-].[Na+]
reactant | sodium hydrosulphite | 55 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | 135 ml | O | H2O
product | 4-amino-2-[(methylthio)methyl]phenol | NC1=CC(=C(C=C1)O)CSC | C8H11NOS
